US05021577
A mixture of 55.3 grams (0.2 mol) of 4-benzoyloxy-2,2,6,6-tetramethylpiperidine, 2.8 grams of molybdenum trioxide and 250 ml of n-octane is heated to 120° C. A solution of 90.2 grams (0.7 mol) of 70% aqueous tert-butyl hydroperoxide is added dropwise to the hot reaction mixture. Water is removed by azeotropic distillation and collected in a Dean-Stark trap. The reaction mixture is heated at reflux till the red color of the intermediate N-oxyl compound disappears. Solids are removed by filtration, and the filtrate is concentrated under vacuum to give an oil. Purification of the oil by flash chromatography on silica gel (100:3 heptane: ethyl acetate) affords 4-benzoyloxy-1-octyloxy-2,2,6,6-tetramethylpiperidine as a mixture of octyloxy isomers. Further elution of the chromatographic column with 50:3 heptane:ethyl acetate affords the title compound as a mixture of octanediyl isomers.

reactant | 4-benzoyloxy-2,2,6,6-tetramethylpiperidine | 0.2 mol, 55.3 grams | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | tert-butyl hydroperoxide | 0.7 mol, 90.2 grams | C(C)(C)(C)OO | C4H10O2
catalyst | molybdenum trioxide | 2.8 grams | [Mo](=O)(=O)=O
solvent | n-octane | 250 ml | CCCCCCCC | C8H18
product | 4-benzoyloxy-1-octyloxy-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C24H39NO3
